US07951805B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYLAMINO)PIPERIDIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure as described in Example 4, making variations only as required to use 6-(4-aminopiperidin-1-yl)pyridazine-3-carboxylic acid (3-methylbutyl)amide to replace 6-(6-amino-3-azabicyclo[3.1.0]hex-3-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide to react with 2-trifluoromethylbenzoyl chloride, the title compound was obtained as a white powder in 29% yield. 1H NMR (300 MHz, CDCl3) δ 8.00 (d, J=9.5 Hz, 1H), 7.85 (t, J=5.6 Hz, 1H), 7.70 (d, J=7.5 Hz, 1H), 7.52-7.61 (m, 3H), 7.01 (d, J=9.6 Hz, 1H), 5.71 (d, J=7.9 Hz, 1H), 4.49 (d, J=13.7 Hz, 2H), 4.30-4.38 (m, 1H), 3.49 (dd, J=6.6 and 13.7 Hz, 2H), 3.22-3.27 (m, 2H), 2.20-2.23 (m, 2H), 1.48-1.76 (m, 5H), 0.94 (d, J=6.6 Hz, 6H). MS (ES+) m/z 463.9 (M+1).

reactant | 6-(4-aminopiperidin-1-yl)pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)N)C | C15H25N5O
reactant | 6-(6-amino-3-azabicyclo[3.1.0]hex-3-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CC2C(C2C1)N | C15H21N5O
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYLAMINO)PIPERIDIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 29% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC(C1=C(C=CC=C1)C(F)(F)F)=O)C | C23H28F3N5O2
